Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin / bee sting / azithromycin
 
Attending: ___.
 
Chief Complaint:
Fever, myalgia, headache, abdominal pain, nausea, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ male without significant past
medical history, who presents with 10 days of fever and 
myalgias.

The patient reports that he was in ___ on vacation in
early ___ for 7 days. Reports drinking clean water and no
unusual outdoor activities during this time.10 days prior to
admission and several weeks after returning from ___, he
developed fevers as high as 103, diffuse myalgias, and 
headaches.
He also endorses sore throat, dry cough, and intermittent
headaches, without neck stiffness of photophobia. He has also
developed emesis after eating solid foods as well as loose bowel
movements, non-bloody. Denies insect bite, rash, or sick 
contacts
at home. 

On ROS, patient also reports that he has had ___ years of chronic
left testicular pain which is exacerbated by his coughing. He
also has had months of left ear pain and decreased hearing. 

In the ED, initial VS were: T 98.3 HR 86 BP 112/67 RR 18 O2 sat
98% RA. Subsequently spiked temp to 102.5 in ED. 
 
Exam notable for:
+ pustules in left ear canal, effusion behind left ear, OP 
clear,
+tender LAD in neck, +bilateral sinus tenderness
lungs ctab
abd ntnd
no leg edema

Labs showed mild normocytic anemia, leukocytosis to 10.6 with
normal diff, transaminitis with AST/ALT 107/96 and otherwise
normal LFTs, chemistry panel normal aside from mild
hyperglycemia.

Imaging significant for CXR without acute process. 

Patient received 2L NS, toradol, Ativan, ceftriaxone and
azithromycin. Had worsened vomiting with azithromycin infusion,
and this was subsequently added to his allergy list.  

On arrival to the floor, patient endorses the history above. 
 
Past Medical History:
None 
 
Social History:
___
Family History:
Reviewed; non-contributory.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=======================
VS: T 100.4 BP 111/71 HR 90 RR 18 O2 sat 95%RA  
GENERAL: Lying in bed, appears diaphoretic but not in acute
distress 
HEENT: AT/NC, anicteric sclera, MMM, no oropharyngeal exudate.
Ear exam difficult due to poor patient tolerance, but possible
effusion noted in L TM, R TM clear, no mastoid tenderness or
erythema
NECK: supple, flexion/extension/rotation intact, bilateral 
tender
LAD noted
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft but tender in RUQ with voluntary guarding, no
rebound, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
VITALS: T 98.9, BP 118/71, HR 65, RR 20, SpO2 97% on RA

GENERAL: Sitting up in bed, NAD.
HEENT: AT/NC, anicteric sclera, MMM, no oropharyngeal exudate. 
CV: RRR, S1/S2, no murmurs, gallops, or rubs.
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles.
GI: +BS, soft, mildly tender to palpation in RUQ and LUQ without 
rebound or guarding, no hepatosplenomegaly.
EXTREMITIES: no cyanosis, clubbing, or edema of lower
extremities. No swelling of right hand as previously had.
NEURO: AAOx3. 
 
Pertinent Results:
ADMISSION LABS:
==============
___ 02:58PM BLOOD WBC-10.6* RBC-4.24* Hgb-13.0* Hct-39.7* 
MCV-94 MCH-30.7 MCHC-32.7 RDW-13.1 RDWSD-44.6 Plt ___
___ 02:58PM BLOOD Neuts-62.6 ___ Monos-11.1 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-6.65* AbsLymp-2.68 
AbsMono-1.18* AbsEos-0.03* AbsBaso-0.03
___ 02:58PM BLOOD Glucose-112* UreaN-7 Creat-1.0 Na-142 
K-3.7 Cl-102 HCO3-28 AnGap-12
___ 02:58PM BLOOD ALT-107* AST-96* AlkPhos-185* TotBili-0.2
___ 02:58PM BLOOD Lipase-22
___ 03:00PM BLOOD Lactate-0.8

PERTINENT LABS/MICRO/IMAGING:
============================
___ 04:56AM BLOOD CK-MB-1 cTropnT-<0.01

___ 04:45PM BLOOD Ret Aut-0.8 Abs Ret-0.03
___ 04:45PM BLOOD Hapto-520*

___ 02:58PM BLOOD TSH-0.26*
___ 08:38AM BLOOD T4-6.9 T3-84

___ 04:11PM BLOOD Parst S-NEGATIVE
___ 08:38AM BLOOD Parst S-NEGATIVE
___:45PM BLOOD Parst S-NEGATIVE

___ 02:58PM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-NEG 
IgM HAV-PND
___ 02:58PM BLOOD HCV Ab-NEG
___ 04:45PM BLOOD HBV VL-NOT DETECT HCV VL-PND

___ 04:11PM BLOOD HIV Ab-NEG
___ 01:30PM BLOOD HIV1 VL-PND

___ 02:47AM OTHER BODY FLUID FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE

___ 14:58
ANAPLASMA PHAGOCYTOPHILUM (HUMAN GRANULOCYTIC EHRLICHIA AGENT) 
IGG/IGMResults Pending

___ 19:15
ANAPLASMA PHAGOCYTOPHILUM DNA, QUALITATIVEResults Pending

___ 19:15
ARBOVIRUS ANTIBODY IGM AND IGGResults Pending

___ 04:56
LEPTOSPIRA ANTIBODYResults Pending

Micro:
--------
___ 2:58 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

___ 2:58 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 2:58 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative). 

___ 2:58 pm SEROLOGY/BLOOD

                            **FINAL REPORT ___

   RAPID PLASMA REAGIN TEST (Final ___: 
      NONREACTIVE. 
      Reference Range: Non-Reactive. 

___ 8:38 am Blood (CMV AB)

   CMV IgG ANTIBODY (Pending): 

   CMV IgM ANTIBODY (Pending): 

___ VIRUS VCA-IgG AB (Final ___:    POSITIVE BY 
EIA. 

   ___ VIRUS EBNA IgG AB (Final ___:    POSITIVE 
BY EIA. 

   ___ VIRUS VCA-IgM AB (Final ___: 
      NEGATIVE <1:10 BY IFA. 
      INTERPRETATION: RESULTS INDICATIVE OF PAST EBV INFECTION. 
      In most populations, 90% of adults have been infected at 
sometime
      with EBV and will have measurable VCA IgG and EBNA 
antibodies.
      Antibodies to EBNA develop ___ weeks after primary 
infection and
      remain present for life. Presence of VCA IgM antibodies 
indicates
      recent primary infection. 

___ 6:44 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   OVA + PARASITES (Pending): 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

   FECAL CULTURE - R/O YERSINIA (Final ___:    NO YERSINIA 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      No E. coli O157:H7 found. 

___ 7:15 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 

Time Taken Not Noted     Log-In Date/Time: ___ 9:56 am
      STOOL     CONSISTENCY: FORMED      Source: Stool. 

   OVA + PARASITES (Pending): 

Imaging:
----------
CXR ___:
No acute cardiopulmonary abnormality.

RUQUS ___:
1.  Suboptimally evaluated gallbladder due to contracted state.  
Within this
limitation, no stones seen.  No biliary ductal dilatation.

RUE Doppler ___:
No evidence of deep vein thrombosis in the right upper 
extremity.

CT A/P w/ contrast ___:
1. No focal intra-abdominal or pelvic abnormalities identified 
to correlate
with patient's symptoms.
2. Nonspecific bladder wall thickening for which correlation 
with urinary labs
is recommended.
3. Small left pleural effusion and trace right pleural effusion. 
 Mild
interstitial edema in the bilateral lung bases.

DISCHARGE LABS:
===============
___ 07:46AM BLOOD WBC-9.8 RBC-3.94* Hgb-12.3* Hct-36.7* 
MCV-93 MCH-31.2 MCHC-33.5 RDW-13.1 RDWSD-44.8 Plt ___
___ 07:46AM BLOOD ___ PTT-28.9 ___
___ 07:46AM BLOOD Glucose-95 UreaN-10 Creat-0.9 Na-145 
K-4.5 Cl-104 HCO3-26 AnGap-15
___ 07:46AM BLOOD Calcium-9.1 Phos-3.4 Mg-2.1
___ 07:46AM BLOOD ALT-114* AST-65* AlkPhos-186* TotBili-0.4

 
Brief Hospital Course:
PATIENT SUMMARY:
================
___ year-old male with no significant past medical history who 
presented with 10 days of fever and myalgias, along with 
abdominal pain, nausea, diarrhea, pleuritic chest pain, 
headache, and acute on chronic left ear pain. Broad infectious 
work up pending at the time of discharge but improving on 
empiric doxycycline. 

ACUTE ISSUES:
=============
# Fever: 
# Leukocytosis: 
# Transaminitis:
Patient presents with 10 days of fever associated with myalgias, 
pleuritic chest pain, headache, GI and upper respiratory 
symptoms. No meningismus on exam to suggest meningitis. No TB 
risk factors, and HIV Ab negative. Seemingly consistent with 
viral or atypical bacterial process. Could consider 
travel-associated infections, though delayed onset of symptoms 
after travel (trip to ___ beginning of ___ 
seems less consistent with this. UA without signs of infection. 
CXR negative. RUQUS unrevealing. CT A/P with nonspecific bladder 
thickening and small L pleural effusion and mild b/l 
interstitial edema with lungs clear on exam. Labwork positive 
for transaminitis. Parasite smear negative x3. HCV and HBV 
negative. Monospot and flu negative. Patient was started on 
empiric doxycycline for presumed tick-borne illness on ___ 
with subsequent symptomatic improvement and downtrending 
transaminases. The patient will follow up with ID. The following 
studies were pending on discharge:
- IgM HAV
- HBV VL
- HCV VL
- HIV VL
- Leptospira Antibody
- AnaplasmaPhagocytophilum DNA, Qualitative
- Arbovirus Antibody IgM and IgG
- Anaplasma phagocytophilum (human granulocytic Ehrlichia agent) 
IgG/IgM
- Stool O&P
- CMV serology
- EBV serology

#Nausea/vomiting:
#Abdominal pain: 
Abdominal exam with tenderness to palpation in upper abdomen, 
transaminitis present, but RUQUS unrevealing and CT A/P 
w/contrast negative for focus of infection. Stool studies 
negative so far. Pain controlled with Tylenol and ibuprofen.

#Ear pain: 
Patient with chronic left ear pain for months, maybe some 
worsening recently. Noted to have pulled some wax from it a few 
weeks back. On exam, TM with slight erythema, no exudate, but 
possibly some residual cotton from using Q-tips. No evidence of 
acute OM. Patient should follow up with ENT outpatient.

#Anemia:
Patient with Hgb ___, unknown baseline. Labs negative for 
hemolysis. Recommend further workup outpatient.

#Right hand swelling:
Patient notes increased swelling in right hand, notes a hx of 
blood clots in his family - grandmother and uncles. RUE Doppler 
shows no evidence of RUE DVT.

TRANSITIONAL ISSUES:
===================
[ ] Follow-up infectious studies.
[ ] Please ensure follow up with ID (scheduled for ___ 
01:30p)
[ ] Please ensure that patient establishes care with new PCP. 
[ ] Patient should seen ENT re: chronic left ear pain.
[ ] Work up of anemia.

#CODE: Full (confirmed)
#CONTACT: Wife, ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate [Targadox] 50 mg 2 tablet(s) by mouth 
twice daily Disp #*17 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
-Fever
-Leukocytosis
-Transaminitis
-Abdominal pain
-Nausea

SECONDARY:
-Ear pain
-Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.

WHY WAS I ADMITTED TO THE HOSPITAL?
You were admitted to the hospital because you were having fever, 
body aches, headaches, vomiting, and diarrhea.

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?
-You were a little dehydrated, so you were given fluids through 
your IV.
-You had imaging of your chest and belly which did not show any 
evidence of infection.
-You were seen by the infectious disease doctors to help with 
your infectious workup. You had blood, urine, and stool tests 
which have been unrevealing so far.
-You were started on antibiotics (doxycycline) to treat any 
potential tick-borne illness.
-You noticed that your right hand was a little swollen, so you 
had an ultrasound of the arm which did not show any clots.

WHAT SHOULD I DO WHEN I LEAVE THE HOSPITAL?
-Continue to take all of your medications as prescribed. 
Specifically, continue taking doxycycline twice daily through 
___ pm. 
-Please attend all ___ clinic appointments. Specifically, 
please follow up with the infectious disease doctors on ___ at 1:30 ___.
-Please establish care with a primary care physician.
-You have been having ear pain for months, so it is important 
that you make an appointment with ENT 
(ear-nose-throat/otolaryngology). If you'd like to make an 
appointment here at ___, you can call: ___.

We wish you all the best,

Your ___ Care Team
 
Followup Instructions:
___